US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoic acid/Ethoxyethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoate
To ethoxyethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)-propanoate (0.25 ml of a solution containing 2 mg/ml in phosphate buffer 0.1M pH 7) was added the enzyme (amount indicated below) diluted in phosphate buffer 0.1M pH 7 (buffer volume such as total reaction mixture volume was 0.5 ml). The reaction mixture was shaken at room temperature and analysed at different times. The reaction mixture was analysed by the gradient HPLC method 1, and the chiral CE method 2.

reactant | ethoxyethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)-propanoate | C(C)OC(C(=O)OCCOCC)CC1=CC=C(C=C1)O | C15H22O5
solvent | phosphate | 0.1M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | phosphate | 0.1M, 0.5 ml, pH 7 | P(=O)([O-])([O-])[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoic acid Ethoxyethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)-propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCCOCC)CC1=CC=C(C=C1)O | InChI=1S/C15H22O5.C11H14O4/c1-3-18-9-10-20-15(17)14(19-4-2)11-12-5-7-13(16)8-6-12;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,14,16H,3-4,9-11H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t14-;10-/m10/s1
